US07732446B1
(4-Amino-6,7-dimethoxy-isoquinolin-1-ylmethyl)carbamic acid tert-butyl ester (277 mg, 0.831 mmol) was dissolved in dry acetone, and benzoylisothiocyanate (149 mg, 0.914 mmol) was added dropwise. The reaction was stirred at room temperature for 2 h, and was concentrated to yield a yellow solid. This solid was triturated with 50% aqueous EtOH, filtered, and suspended in 10% NaOH (5.0 mL). The reaction mixture was placed in an oil bath that was pre-heated to 98° C. for 1 h, (the solid was dissolved in 10 min). The mixture was cooled and filtered. The yellow solid was washed with water, and dried in vacuo to give (6,7-dimethoxy-4-thioureido-isoquinolin-1-ylmethyl)carbamic acid tert-butyl ester (165 mg; 51%). 1H-NMR (CDCl3): δ, 8.31 (s, 1H), 7.66 (s, 1H), 7.38 (s, 1H), 4.81 (s, 2H), 4.05 (s, 3H), 4.00 (s, 3H), 2.81 (s, 2H), 1.46 (s, 9H); MS: calculated for C18H24N4O4S+H 393.0; found: 392.9.

reactant | (4-Amino-6,7-dimethoxy-isoquinolin-1-ylmethyl)carbamic acid tert-butyl ester | 0.831 mmol, 277 mg | C(C)(C)(C)OC(NCC1=NC=C(C2=CC(=C(C=C12)OC)OC)N)=O | C17H23N3O4
reactant | benzoylisothiocyanate | 0.914 mmol, 149 mg | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | acetone | CC(=O)C | C3H6O
product | (6,7-dimethoxy-4-thioureido-isoquinolin-1-ylmethyl)carbamic acid tert-butyl ester | 165 mg, 51% | C(C)(C)(C)OC(NCC1=NC=C(C2=CC(=C(C=C12)OC)OC)NC(=S)N)=O | C18H24N4O4S
